US03983133
A mixture of 2 parts of α-[2-(1,4,5,6-tetrahydro-2-pyrimidinylamino)ethyl]benzylalcohol and 27 parts of sulfuric acid 80% is stirred for 2 hours at room temperature. The reaction mixture is poured onto crushed ice and the whole is alkalized with sodium hydroxide solution. The product is extracted with toluene. The organic layer is separated, dried, filtered and evaporated. The solid residue is crystallized from acetone, yielding 3,4,6,7,8,9-hexahydro-6-phenyl-2H-pyrimido-[1,2-a]pyrimidine, m.p. 177°-179°C.

reactant | α-[2-(1,4,5,6-tetrahydro-2-pyrimidinylamino)ethyl]benzylalcohol | N1C(=NCCC1)NCCC(C1=CC=CC=C1)O | C13H19N3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 3,4,6,7,8,9-hexahydro-6-phenyl-2H-pyrimido-[1,2-a]pyrimidine | C1(=CC=CC=C1)C1CCNC=2N1CCCN2 | C13H17N3
